US08492425B2
A solution of 3-(2-chloroethoxy)-5-methyl-1-(6-methoxynaphthalen-2-yl)-1H-pyrazol (0.63 g, 2 mmol) and morpholine (0.96 g, 8 mmol) in dimethylformamide (10 ml) was heated to 95° C., in a nitrogen atmosphere, during 20 hrs. Next, it was cooled, the DMF was evaporated in a rotavapor and water and dichloromethane was added to the residue. The organic phase was washed with water and, subsequently, it was extracted with HCl 2N several times. The collection of acidic waters was basified by the addition of NaOH 20% and it was extracted with dichloromethane, which was dried over Na2SO4, filtered and evaporated, thereby leaving a residue of 448 mg of 4-{2-[1-(6-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine (yield: 61%) in the form of a colourless oil.

reactant | 3-(2-chloroethoxy)-5-methyl-1-(6-methoxynaphthalen-2-yl)-1H-pyrazol | 2 mmol, 0.63 g | ClCCOC1=NN(C(=C1)C)C1=CC2=CC=C(C=C2C=C1)OC | C17H17ClN2O2
reactant | morpholine | 8 mmol, 0.96 g | N1CCOCC1 | C4H9NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-{2-[1-(6-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine | 448 mg, yield: 61% | COC=1C=C2C=CC(=CC2=CC1)N1N=C(C=C1C)OCCN1CCOCC1 | C21H25N3O3
